US06869954B2
9) Preparation of 6-(3-fluoro-4-methylphenyl)-2-isobutyl-4-methanesulfonyloxymethyl-2H-pyridazin-3-one
To an ice-cold solution of 6-(3-fluoro-4-methyl-phenyl)-4-hydroxymethyl-2-isobutyl-2H-pyridazin-3-one (1.08 g, 3.73 mmol) in methylene chloride (20 mL) were added triethylamine (491 mg, 4.85 mmol) and methanesulfonyl chloride (513 mg, 4.48 mmol), and the mixture was stirred for 1 hour. A saturated aqueous solution of sodium hydrogencarbonate was added to the reaction mixture, and then, the mixture was extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was recrystallized from chloroform-hexane to yield the title compound as a colorless crystalline powder (964 mg, 70.4%).

reactant | 6-(3-fluoro-4-methyl-phenyl)-4-hydroxymethyl-2-isobutyl-2H-pyridazin-3-one | 3.73 mmol, 1.08 g | FC=1C=C(C=CC1C)C=1C=C(C(N(N1)CC(C)C)=O)CO | C16H19FN2O2
reactant | triethylamine | 4.85 mmol, 491 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.48 mmol, 513 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-(3-fluoro-4-methylphenyl)-2-isobutyl-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | 964 mg, 70.4% | FC=1C=C(C=CC1C)C=1C=C(C(N(N1)CC(C)C)=O)COS(=O)(=O)C | C17H21FN2O4S
